US06403595B1
To a solution of the obtained 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-4-vinylsulfonyl-2-piperazinone (3.99 g) and 4-chlorosalicylaldehyde (1.61 g) in tert-butanol (35 ml) was added potassium t-butoxide (446 mg), and the mixture was refluxed for 4 days. The reaction solution was concentrated, and the residue was partitioned with ethyl acetate/water. The organic layer was washed with brine, dried and concentrated, and the residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:4) to give colorless solid of 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-4-(7-chloro-2H-benzopyran-3-sulfonyl)-2-piperazinone (1.856 g).

reactant | 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-4-vinylsulfonyl-2-piperazinone | 3.99 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CN(CC1)S(=O)(=O)C=C)=O | C17H29N3O5S
reactant | 4-chlorosalicylaldehyde | 1.61 g | ClC=1C=C(C(C=O)=CC1)O | C7H5ClO2
reactant | potassium t-butoxide | 446 mg | CC(C)([O-])C.[K+]
solvent | tert-butanol | 35 ml | C(C)(C)(C)O | C4H10O
product | 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-4-(7-chloro-2H-benzopyran-3-sulfonyl)-2-piperazinone | 1.856 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CN(CC1)S(=O)(=O)C=1COC2=C(C1)C=CC(=C2)Cl)=O | C24H32ClN3O6S
